US07790727B2
3-Difluoromethoxy-N-(3-piperazin-1-yl-4-trifluoromethoxy-phenyl)-benzenesulfonamide
0.22 g 4-[5-(3-Difluoromethoxy-benzenesulfonylamino)-2-trifluoromethoxy-phenyl]-piperazine-1-carboxylic acid tert-butyl ester (0.388 mmol) were dissolved in 5 ml dichloromethane. 1.5 mL 6 N hydrochlorid acid in isopropanol were added and the reaction mixture was stirred at room temperature for 2.5 h. The solvents were evaporated, the residue was dissolved in water and the pH was adjusted to 8-9 with 1 N aqueous solution of sodium hydroxide. Thereby a white suspension formed, which was extracted once with a mixture of ethyl acetate and dichloromethane. The still existent suspensions were filtered, and the combined organic filtrates were dried over sodium sulfate, filtered, and the solvent was evaporated under reduced pressure to yield 0.140 g of the desired product.

reactant | 4-[5-(3-Difluoromethoxy-benzenesulfonylamino)-2-trifluoromethoxy-phenyl]-piperazine-1-carboxylic acid tert-butyl ester | 0.388 mmol, 0.22 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C=CC(=C1)NS(=O)(=O)C1=CC(=CC=C1)OC(F)F)OC(F)(F)F | C23H26F5N3O6S
reactant | hydrochlorid | 6 N, 1.5 mL | Cl | ClH
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | isopropanol | C(C)(C)O | C3H8O
product | 3-Difluoromethoxy-N-(3-piperazin-1-yl-4-trifluoromethoxy-phenyl)-benzenesulfonamide | 0.140 g | FC(OC=1C=C(C=CC1)S(=O)(=O)NC1=CC(=C(C=C1)OC(F)(F)F)N1CCNCC1)F | C18H18F5N3O4S
